US06146822
(1) N,N'-bis(4-isobutylbenzylidene)hydrazine
A 3-liter three-necked flask was charged with 638.5 g (3.94 mol) of 4-isobutylbenzaldehyde and 1 liter of methanol, which were stirred for mixing by a mechanical stirrer. While the reactor was cooled with water so as to maintain the temperature of the reaction solution below 50° C., 98.5 g (1.97 mol) of hydrazine monohydrate was slowly added dropwise. After the completion of addition, the reaction solution was heated under reflux for 30 minutes and then allowed to stand one day.

reactant | 4-isobutylbenzaldehyde | 3.94 mol, 638.5 g | C(C(C)C)C1=CC=C(C=O)C=C1 | C11H14O
reactant | methanol | 1 liter | CO | CH4O
reactant | hydrazine monohydrate | 1.97 mol, 98.5 g | O.NN
solvent | water | O | H2O
product | N,N'-bis(4-isobutylbenzylidene)hydrazine | C(C(C)C)C1=CC=C(C=NN=CC2=CC=C(C=C2)CC(C)C)C=C1 | C22H28N2
